US07238720B2
b) 3-(2,4,6-Trimethylphenyl)sulfinyl-1-dimethylcarbamoyl-1H-1,2,4-triazole
3-(2,4,6-Trimethylphenyl)sulfinyl-1H-1,2,4-triazole and dimethylcarbamoyl chloride were employed to synthesize the title compound as in Example 22.

reactant | 3-(2,4,6-Trimethylphenyl)sulfinyl-1H-1,2,4-triazole | CC1=C(C(=CC(=C1)C)C)S(=O)C1=NNC=N1 | C11H13N3OS
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | 3-(2,4,6-Trimethylphenyl)sulfinyl-1-dimethylcarbamoyl-1H-1,2,4-triazole | CC1=C(C(=CC(=C1)C)C)S(=O)C1=NN(C=N1)C(N(C)C)=O | C14H18N4O2S
